US06284768B1
A suspension of zinc (0.874 g) in THF with dibromoethane (0.02 mL) was sonicated at 40° C. for 40 minutes under argon. N-Boc-iodo-L-alanine benzyl ester (4.20 g, 10.4 mmol) and dimethylacetamide (5 mL) were added, and the mixture was heated at 55° C. for 1 hour. tbutyl 1-(4-iodophenyl)cyclopropane-1-carboxylate (3.26 g, 9.48 mmol) in dimethylacetamide (10 mL) was added followed by tris(dibenzylideneacetone)dipalladium(0) (0.33 g) and tri-o-tolylphosphine (0.398 g). Heating was continued under argon for 16 hours. The mixture was diluted with ethyl acetate, washed with water, dried, filtered and evaporated. Chromatography of the residue over silica gel (methylene chloride/hexane 1/3 to methylene chloride/ethyl acetate 95/5) gave 2-(S)-tbutoxycarbonylamino-3-[4′-1″-tbutoxycarbonyl)cyclopropyl]benzenepropanoic acid benzyl ester (3.15 g, 6.36 mmol, 67%).

reactant | dibromoethane | 0.02 mL | BrC(C)Br | C2H4Br2
reactant | N-Boc-iodo-L-alanine benzyl ester | 10.4 mmol, 4.20 g | C(C1=CC=CC=C1)OC([C@@H](N(C(=O)OC(C)(C)C)I)C)=O | C15H20INO4
reactant | 1-(4-iodophenyl)cyclopropane-1-carboxylate | 9.48 mmol, 3.26 g | IC1=CC=C(C=C1)C1(CC1)C(=O)[O-]
reactant | tri-o-tolylphosphine | 0.398 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | THF | C1CCOC1 | C4H8O
solvent | dimethylacetamide | 10 mL | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc | 0.874 g | [Zn] | Zn
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.33 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dimethylacetamide | 5 mL | CC(=O)N(C)C | C4H9NO
product | benzenepropanoic acid benzyl ester | 6.36 mmol, 3.15 g, 67% | C(C1=CC=CC=C1)OC(CCC1=CC=CC=C1)=O | C16H16O2
